### PR TITLE
[Merged by Bors] - feat(Topology/Order/LowerUpperTopology): Scott and Upper topologies coincide on a complete linear order

### PR DESCRIPTION
**Pull request by mans0954**
This PR shows that the subbasis used to define the lower (upper) topology together with the universal set form a basis for the lower (upper) topology on a linear order. When the linear order is complete, the subbasis with the universal set is the topology.

A consequence of this result is that the Scott and upper topologies coincide on a complete linear order.

---

- [x] depends on: #12221

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by mans0954** [comment]
@YaelDillies please could you review this PR when you have a moment? Thanks.

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 1]
```diff
@@ -68,7 +68,7 @@ def upper (α : Type*) [Preorder α] : TopologicalSpace α := generateFrom {s |
 /-- Type synonym for a preorder equipped with the lower set topology. -/
 def WithLower (α : Type*) := α
 
-variable {α β}
+variable {α}
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/LowerUpperTopology.lean:71]: Something quite strange. If you check out the previous commit, `f6ff4f6488c932119bf8b80c48d5d4ea94767eb7` then `exact?` was offering `exact False.elim β` as the solution to nearly everything, and `aesop` was claiming to be able to solve goals where `aesop?` would return something nonsensical.

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Order/LowerUpperTopology.lean:71]: Ah, that's because you didn't give the type of `β` explicitly, so Lean was free to instantiate `β := False` wherever necessary!
```suggestion
variable {α β : Type*}
```
should fix it

[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/LowerUpperTopology.lean]: Ah, I did wonder why they weren't typed. Thanks.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 2]
```diff
@@ -297,24 +297,33 @@ end PartialOrder
...
     rcases eq_empty_or_nonempty Uᶜ with eUc | neUc
-    · exact Or.inr (compl_empty_iff.mp eUc)
-    · apply Or.inl
+    · exact Or.inl (compl_empty_iff.mp eUc)
+    · apply Or.inr
       use sSup Uᶜ
-      rw [eq_compl_comm, le_antisymm_iff]
-      exact ⟨(isLowerSet_of_isClosed hU.isClosed_compl).Iic_subset
+      rw [compl_eq_comm, le_antisymm_iff]
+      exact ⟨fun  _ ha ↦ le_sSup ha, (isLowerSet_of_isClosed hU.isClosed_compl).Iic_subset
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Done, thanks.

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 3]
```diff
@@ -281,6 +281,68 @@ instance (priority := 90) t0Space : T0Space α :=
...
 end PartialOrder
 
+section LinearOrder
+
+variable [LinearOrder α] [TopologicalSpace α] [IsLower α]
+
+lemma isTopologicalBasis_insert_univ_subbasis :
+    IsTopologicalBasis (insert univ {s : Set α | ∃ a, (Ici a)ᶜ = s}) := by
+  exact isTopologicalBasis_of_subbasis_of_inter (by
+      rw [topology_eq α]; exact rfl)
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LowerUpperTopology.lean:291]:
```suggestion
    IsTopologicalBasis (insert univ {s : Set α | ∃ a, (Ici a)ᶜ = s}) :=
  isTopologicalBasis_of_subbasis_of_inter (by rw [topology_eq]; rfl)
```

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 4]
```diff
@@ -281,6 +281,68 @@ instance (priority := 90) t0Space : T0Space α :=
...
+    apply Or.inr
+    convert IsTopologicalBasis.open_eq_sUnion isTopologicalBasis_insert_univ_subbasis hO
+    constructor
+    · intro ⟨a,ha⟩
+      use {U}
+      constructor
+      · apply subset_trans (singleton_subset_iff.mpr _) (subset_insert _ _)
+        use a
+      · rw [sUnion_singleton]
+    · intro ⟨S,⟨hS1,hS2⟩⟩
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LowerUpperTopology.lean:319]:
```suggestion
    · intro ⟨S, hS1, hS2⟩
```

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 5]
```diff
@@ -281,6 +281,68 @@ instance (priority := 90) t0Space : T0Space α :=
...
+end LinearOrder
+
+section CompleteLinearOrder
+
+variable [CompleteLinearOrder α] [t : TopologicalSpace α] [IsLower α]
+
+lemma isTopologicalSpace_basis (U : Set α) : IsOpen U ↔ U = univ ∨ (∃ (a : α), (Ici a)ᶜ = U) := by
+  by_cases hU : U = univ
+  simp only [hU, isOpen_univ, compl_Ici, true_or]
+  constructor
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LowerUpperTopology.lean:308]:
```suggestion
  refine ⟨?_, isTopologicalBasis_insert_univ_subbasis.isOpen⟩ 
```
and then you can rid of indentation below

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 6]
```diff
@@ -281,6 +281,65 @@ instance (priority := 90) t0Space : T0Space α :=
...
+      simp_all only [compl_Ici, mem_Ici, sSup_le_iff, mem_setOf_eq, mem_Iio, not_lt]
+    · intro b hb
+      rw [mem_Ici, sSup_le_iff]
+      intro c hc
+      simp only [sInter_image, mem_iInter] at hb
+      rw [← not_lt, ← mem_Iio, ← compl_Ici]
+      exact hb _ hc
+
+end CompleteLinearOrder
+
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LowerUpperTopology.lean:341]:
```suggestion
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 7]
```diff
@@ -367,8 +376,8 @@ end Scott
 variable [Preorder α]
 
 lemma scottHausdorff_le_lower : scottHausdorff α ≤ lower α :=
-  fun s h => @IsScottHausdorff.isOpen_of_isLowerSet  _ _ (scottHausdorff α) _ _
-      <| (@IsLower.isLowerSet_of_isOpen (Topology.WithLower α) _ _  _ s h)
+  fun s h => @IsScottHausdorff.isOpen_of_isLowerSet _ _ (scottHausdorff α) _ _
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:379]:
```suggestion
  fun s h => IsScottHausdorff.isOpen_of_isLowerSet (α := scottHausdorff α)
```
or something like that?

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 8]
```diff
@@ -297,24 +297,33 @@ end PartialOrder
 
 section CompleteLinearOrder
 
-variable [CompleteLinearOrder α] [TopologicalSpace α] [Topology.IsScott α]
+variable [CompleteLinearOrder α]
 
-lemma isOpen_iff_Iic_compl_or_univ (U : Set α) :
-    IsOpen U ↔ (∃ (a : α), U = (Iic a)ᶜ) ∨ U = univ := by
+lemma isOpen_iff_Iic_compl_or_univ [TopologicalSpace α] [Topology.IsScott α] (U : Set α) :
+    IsOpen U ↔ U = univ ∨ (∃ (a : α), (Iic a)ᶜ = U) := by
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:303]:
```suggestion
    IsOpen U ↔ U = univ ∨ ∃ a, (Iic a)ᶜ = U := by
```

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 9]
```diff
@@ -365,6 +424,25 @@ instance (priority := 90) t0Space : T0Space α :=
...
+    IsTopologicalBasis (insert univ {s : Set α | ∃ a, (Iic a)ᶜ = s}) :=
+  IsLower.isTopologicalBasis_insert_univ_subbasis (α := αᵒᵈ)
+
+end LinearOrder
+
+section CompleteLinearOrder
+
+variable [CompleteLinearOrder α] [t : TopologicalSpace α] [IsUpper α]
+
+lemma isTopologicalSpace_basis (U : Set α) : IsOpen U ↔ U = univ ∨ (∃ (a : α), (Iic a)ᶜ = U) :=
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LowerUpperTopology.lean:441]:
```suggestion
lemma isTopologicalSpace_basis (U : Set α) : IsOpen U ↔ U = univ ∨ ∃ a, (Iic a)ᶜ = U :=
```

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 10]
```diff
@@ -281,6 +281,65 @@ instance (priority := 90) t0Space : T0Space α :=
...
+    constructor
+    · apply subset_trans (singleton_subset_iff.mpr _) (subset_insert _ _)
+      use a
+    · rw [sUnion_singleton]
+  · intro ⟨S, hS1, hS2⟩
+    have hUS : univ ∉ S := by
+      by_contra hUS'
+      apply hU
+      rw [hS2]
+      exact sUnion_eq_univ_iff.mpr (fun a => by use univ; exact ⟨hUS',trivial⟩)
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LowerUpperTopology.lean:323]:
```suggestion
      exact sUnion_eq_univ_iff.mpr (fun a => ⟨univ, hUS', trivial⟩)
```
or something similar

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 11]
```diff
@@ -281,6 +281,65 @@ instance (priority := 90) t0Space : T0Space α :=
...
+
+lemma isTopologicalBasis_insert_univ_subbasis :
+    IsTopologicalBasis (insert univ {s : Set α | ∃ a, (Ici a)ᶜ = s}) :=
+  isTopologicalBasis_of_subbasis_of_inter (by rw [topology_eq α]; rfl)
+    (fun _ hs _ ht => by
+      simp at *
+      rcases hs with ⟨b, hb⟩
+      rcases ht with ⟨c, hc⟩
+      use b ⊓ c
+      rw [← hc, ← hb, Iio_inter_Iio])
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LowerUpperTopology.lean:296]: Can't you combine the `fun` and `rcases` into a single `rintro`?

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 7 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: `(t := scottHausdorff α)` works if I change `[TopologicalSpace α]` to `[t : TopologicalSpace α]` higher up.

File: Mathlib/Topology/Order/LowerUpperTopology.lean (hunk 11 above)
Comment (mans0954) [reply Mathlib/Topology/Order/LowerUpperTopology.lean]: Yes, done. Thanks.

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 12]
```diff
@@ -281,6 +281,61 @@ instance (priority := 90) t0Space : T0Space α :=
...
+    use b ⊓ c
+    rw [← hc, ← hb, compl_Ici, compl_Ici, compl_Ici, Iio_inter_Iio])
+
+end LinearOrder
+
+section CompleteLinearOrder
+
+variable [CompleteLinearOrder α] [t : TopologicalSpace α] [IsLower α]
+
+lemma isTopologicalSpace_basis (U : Set α) : IsOpen U ↔ U = univ ∨ (∃ (a : α), (Ici a)ᶜ = U) := by
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LowerUpperTopology.lean:301]:
```suggestion
lemma isTopologicalSpace_basis (U : Set α) : IsOpen U ↔ U = univ ∨ ∃ a, (Ici a)ᶜ = U := by
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 13]
```diff
@@ -142,7 +142,7 @@ def scottHausdorff (α : Type*) [Preorder α] : TopologicalSpace α where
     obtain ⟨b, hbd, hbds₀⟩ := h s₀ hs₀s hd₁ hd₂ hd₃ has₀
     exact ⟨b, hbd, Set.subset_sUnion_of_subset s s₀ hbds₀ hs₀s⟩
 
-variable (α) [TopologicalSpace α]
+variable (α) [t : TopologicalSpace α]
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:145]: You never use the name explicitly
```suggestion
variable (α) [TopologicalSpace α]
```

Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: It now fails with:
```
error: ././././Mathlib/Topology/Order/ScottTopology.lean:379:51: invalid argument name 't' for function 'Topology.IsScottHausdorff.isOpen_of_isLowerSet'
error: Lean exited with code 1
```

Comment (YaelDillies) [reply Mathlib/Topology/Order/ScottTopology.lean]: Oh okay, maybe that's a sign it should rather be `{t : TopologicalSpace α}`

Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Okay, how's that?

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 14]
```diff
@@ -281,6 +281,61 @@ instance (priority := 90) t0Space : T0Space α :=
...
+section LinearOrder
+
+variable [LinearOrder α] [TopologicalSpace α] [IsLower α]
+
+lemma isTopologicalBasis_insert_univ_subbasis :
+    IsTopologicalBasis (insert univ {s : Set α | ∃ a, (Ici a)ᶜ = s}) :=
+  isTopologicalBasis_of_subbasis_of_inter (by rw [topology_eq α]; rfl) (by
+    rintro _ ⟨b, hb⟩ _ ⟨c, hc⟩
+    use b ⊓ c
+    rw [← hc, ← hb, compl_Ici, compl_Ici, compl_Ici, Iio_inter_Iio])
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LowerUpperTopology.lean:293]:
```suggestion
    rintro _ ⟨b, rfl⟩ _ ⟨c, rfl⟩
    use b ⊓ c
    rw [compl_Ici, compl_Ici, compl_Ici, Iio_inter_Iio])
```
right?

File: Mathlib/Topology/Order/LowerUpperTopology.lean [hunk 15]
```diff
@@ -281,6 +281,61 @@ instance (priority := 90) t0Space : T0Space α :=
...
+
+lemma isTopologicalSpace_basis (U : Set α) : IsOpen U ↔ U = univ ∨ ∃ a, (Ici a)ᶜ = U := by
+  by_cases hU : U = univ
+  simp only [hU, isOpen_univ, compl_Ici, true_or]
+  refine ⟨?_, isTopologicalBasis_insert_univ_subbasis.isOpen⟩
+  intro hO
+  apply Or.inr
+  convert IsTopologicalBasis.open_eq_sUnion isTopologicalBasis_insert_univ_subbasis hO
+  constructor
+  · intro ⟨a,ha⟩
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/LowerUpperTopology.lean:309]:
```suggestion
  · intro ⟨a, ha⟩
```

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/Topology/Order/ScottTopology.lean]: Looks good, yes!

**Comment by YaelDillies** [comment]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
